US07816378B2
To a solution of 3-amino-3-benzyldihydrofuran-2(3H)-one (2.55 g, 13.3 mmol) in THF (25 mL) was added ditertbutyl dicarbonate (3.2 g, 14.7 mmol). The reaction mixture was concentrated in vacuo to afford crude tert-butyl (3-benzyl-2-oxotetrahydrofuran-3-yl)carbamate as a white solid. MS M+Na=314

reactant | 3-amino-3-benzyldihydrofuran-2(3H)-one | 13.3 mmol, 2.55 g | NC1(C(OCC1)=O)CC1=CC=CC=C1 | C11H13NO2
reactant | ditertbutyl dicarbonate | 14.7 mmol, 3.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl (3-benzyl-2-oxotetrahydrofuran-3-yl)carbamate | C(C1=CC=CC=C1)C1(C(OCC1)=O)NC(OC(C)(C)C)=O | C16H21NO4
